US06046213
1-(2,2-Diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one
A mixture of 3,4-dihydroxypropiophenone (ICN Biomedicals, Inc., 3300 Hyland Ave., Costa Mesa, Calif., 92626, USA, 5.0 g, 30 mmol) and dichlorodiphenylmethane (10.0 mL, 52.1 mmol) was heated for 7 min at 170° C. The reaction was cooled and poured into 1 N sodium hydroxide. The mixture was extracted with ether (2×) and the combined extracts were washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (2×5 inches packed in hexane) with elution proceeding as follows: 2% ether/hexane (500 mL), 0.84 g of a white solid tentatively identified as 2-chloro-1-(2,2-diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one; 5% ether/hexane (250 mL), 1.9 g of an unidentified orange oil; 5% ether/hexane (250 mL), 2.18 g of recovered dichlorodiphenylmethane; 10% ether/hexane (500 mL), 4.82 g (48%) of 1-(2,2-diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one as an orange oil which solidified on standing. The product had: mp 69-70.5° C. Analysis calculated for C22H17ClO3 : C, 79.98; H, 5.49. Found: C, 80.05; H, 5.34.

reactant | 3,4-dihydroxypropiophenone | 30 mmol, 5.0 g | CCC(=O)C1=CC(=C(C=C1)O)O | C9H10O3
reactant | dichlorodiphenylmethane | 52.1 mmol, 10.0 mL | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H10Cl2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | 1-(2,2-Diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(CC)=O)C2=CC=CC=C2 | C22H18O3
